US06376655B1
7.7 g (0.034 mol) of 4-(4-cyanophenylazo)phenol, 8.52 g (0.051 mol) ethyl bromoacetate (Fluka, pract.) and 5.66 g (0.041 mol) of dried K2CO3 were mixed in a 250 mL one-neck round flask fitted with a magnetic stirring bar. 100 mL of dry acetone was added, the flask was closed with a reflux condenser protected on the top with a CaCl2-drying tube and the stirred solution was refluxed on an oil bath at 60° C. for 72 h After cooling the flask was transferred to a Rotavapor and the acetone is removed by rotary evaporation. The resulting solid mixture was added 100 mL of 30° C. water and filtered. The filtercake was mixed with 50 mL of cold ethanol. After filtration and vacuum drying 9.19 g (yield 87%) of ethyl 2-[4-(4-cyanophenylazo)-phenoxy]-ethanoate was recovered.

reactant | 4-(4-cyanophenylazo)phenol | 0.034 mol, 7.7 g | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C13H9N3O
reactant | ethyl bromoacetate | 0.051 mol, 8.52 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 0.041 mol, 5.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl 2-[4-(4-cyanophenylazo)-phenoxy]-ethanoate | 9.19 g, yield 87% | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)OCC)C=C1 | C17H15N3O3
